US07531560B2
Synthesis of 5-tert-butyl-3-methanesulfonylamino-2-methoxy-benzoic acid methyl ester
To a 0° C. solution of 1.34 g (4.92 mmol) of N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methanesulfonamide and 1.3 mL (10 mmol) of 48% aqueous HBF4 in 10 mL of THF was added 586 mg (5 mmol) of isoamyl nitrite. The mixture was stirred 2 h, then the solvent was removed and the resulting orange semi-solid triturated with MTBE (3×10 mL). The resulting residue was taken up in MeOH and while CO was bubbled through, 60 mg of Pd(OAc)2 was added, and the mixture was stirred with continuous CO bubbling for 1 h. The solution was filtered, concentrated, and purified by chromatography (0 to 50% EtOAc in hexanes) to provide the title compound as a white solid (752 mg).

reactant | N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methanesulfonamide | 4.92 mmol, 1.34 g | NC=1C(=C(C=C(C1)C(C)(C)C)NS(=O)(=O)C)OC | C12H20N2O3S
reactant | HBF4 | 10 mmol, 1.3 mL | [H+].[B-](F)(F)(F)F
reactant | isoamyl nitrite | 5 mmol, 586 mg | N(=O)OCCC(C)C | C5H11NO2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-tert-butyl-3-methanesulfonylamino-2-methoxy-benzoic acid methyl ester | 752 mg | COC(C1=C(C(=CC(=C1)C(C)(C)C)NS(=O)(=O)C)OC)=O | C14H21NO5S
